US07432258B2
b) 5-Methyl-4-(methyloxy)-2-nitrophenol
1-Methyl-2,5-bis(methyloxy)-4-nitrobenzene (3.96 g, 20 mmol) was dissolved in CH2Cl2 (20 mL) and cooled to −20° C. A solution of BCl3 (1.0 M) in CH2Cl2 (20 mL) was added to above solution drop wise over 5 minutes. A purple solution was obtained. The reaction mixture was slowly warmed to room temperature and stirred for 20 h. The mixture was then quenched with saturated Na2CO3, stirred for 10 minutes and then extracted with EtOAc (3×100 mL). The organic extracts were combined, washed with water, brine, and dried (Na2SO4). The solvent was removed via rotovap to give the title compound (3.65 g, 99%) as a yellow solid. MS (ES) m/e 184 [M+H]+.

reactant | 1-Methyl-2,5-bis(methyloxy)-4-nitrobenzene | 20 mmol, 3.96 g | CC1=C(C=C(C(=C1)OC)[N+](=O)[O-])OC | C9H11NO4
reactant | BCl3 | 1.0 M | B(Cl)(Cl)Cl | BCl3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-4-(methyloxy)-2-nitrophenol | 3.65 g, 99% | CC=1C(=CC(=C(C1)O)[N+](=O)[O-])OC | C8H9NO4
